US08012972B2
N-(2-t-Butoxycarbonylaminophenyl)-5-methanesulfonyloxymethylpyridine-2-carboxylic acid amide (Reference Compound No. 4-1)
Under ice cooling, methanesulfonyl chloride (4.2 mL, 54 mmol) was added to a solution of N-(2-t-butoxycarbonylaminophenyl)-5-hydroxymethylpyridine-2-carboxylic acid amide (Reference Compound No. 3-1, 16 g, 45 mmol) and triethylamine (16 mL, 110 mmol) in dichloromethane (150 mL), and then the reaction mixture was stirred for 1 hour. Water (400 mL) was added thereto, and then the whole was extracted with ethyl acetate (500 mL) five times. The organic layer was washed with water (500 mL), dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The resulting solid was collected by filtration with hexane (80 mL) and ethyl acetate (20 mL) to give 18 g of the title reference compound as a white solid. (Yield 94%)

reactant | methanesulfonyl chloride | 54 mmol, 4.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(2-t-butoxycarbonylaminophenyl)-5-hydroxymethylpyridine-2-carboxylic acid amide | 45 mmol, 16 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)CO | C18H21N3O4
reactant | triethylamine | 110 mmol, 16 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 400 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-(2-t-Butoxycarbonylaminophenyl)-5-methanesulfonyloxymethylpyridine-2-carboxylic acid amide | Yield 94% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=NC=C(C=C1)COS(=O)(=O)C | C19H23N3O6S
